US04632923
To a suspension of 4-Hydroxy-3-(4-hydroxybutyl)-1-(3-methoxyphenyl)(1,8)-naphthyridin-2(1H)-one (1 g.)in methylene chloride (10 ml),in an ice-acetone bath was added a solution of bromine (0.5 g.) in methylene chloride (5 ml.) over a period of 15 min. The resulting yellow-orange suspension was stirred overnight at room temperature. To the resulting clear yellow solution was added a solution of 1,8-diazabicyclo[5.4.0]undec-7-ene (1 g.), in methylene chloride (5 ml.) during 5 mins. The mixture was stirred at room temperature for 3 hrs after which time water (5 ml) was added. The organic layer was separated, dried and evaporated. To the residue was added 50% aqueous ethanol (10 ml.) and after some time the solid was filtered off and recrystallized from isopropanol to yield 1-(3-methoxyphenyl)-3', 4', 5', 6'-tetrahydrospiro[1,8-naphthyridine-3,2'-(2 H)pyran]-2, 4-dione, m.p. 181°-183° C.

reactant | 4-Hydroxy-3-(4-hydroxybutyl)-1-(3-methoxyphenyl)(1,8)-naphthyridin-2(1H)-one | OC1=C(C(N(C2=NC=CC=C12)C1=CC(=CC=C1)OC)=O)CCCCO | C19H20N2O4
reactant | bromine | 0.5 g | BrBr | Br2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | water | 5 ml | O | H2O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-methoxyphenyl)-3', 4', 5', 6'-tetrahydrospiro[1,8-naphthyridine-3,2'-(2 H)pyran]-2, 4-dione | COC=1C=C(C=CC1)N1C(C2(OCCCC2)C(C2=CC=CN=C12)=O)=O | C19H18N2O4
